US08486979B2
5-(1H-benzo[d][1,2,3]triazol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to Method C using 1H-benzo[d][1,2,3]triazole-5-carboxylic acid (Aldrich) and N′-hydroxynicotinimidamide (Tyger). 1H NMR (300 MHz, DMSO-d6) δ 7.67 (ddd, J=8.0, 4.9, 0.7 Hz, 1 H), 8.10-8.20 (m, 1 H), 8.22-8.31 (m, 1 H), 8.49 (dt, J=8.1, 2.0, 1.7 Hz, 1 H), 8.75-8.92 (m, 2 H), 9.30 (dd, J=2.2, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 265 (M+H)+.

reactant | 1H-benzo[d][1,2,3]triazole-5-carboxylic acid | N1N=NC2=C1C=CC(=C2)C(=O)O | C7H5N3O2
reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | NH3 | N | H3N
product | 5-(1H-benzo[d][1,2,3]triazol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | N1N=NC2=C1C=CC(=C2)C2=NC(=NO2)C=2C=NC=CC2 | C13H8N6O
